US08022073B2
87 mg of sodium hydride (55% oil dispersion) was added to 5 ml of DMF. To this was added 0.14 g of pyrazole, and the mixture was stirred for 0.5 hours at room temperature. To the resultant mixture was added 0.25 g of 4-chloro-5-(4-chlorophenyl)-3,6-dimethylpyridazine, and the mixture was stirred for 3 hours on an oil bath of 80° C. To the reaction mixture was added ethyl acetate, and the mixture was washed with brine four times. The organic layer was dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure. 0.38 g of the resultant residue was subjected to silica gel column chromatography, to obtain 0.19 g of 5-(4-chloro-phenyl)-3,6-dimethyl-4-pyrazolylpyridazine (hereinafter, described as compound (6) of the present invention.).

reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | pyrazole | 0.14 g | N1N=CC=C1 | C3H4N2
reactant | 4-chloro-5-(4-chlorophenyl)-3,6-dimethylpyridazine | 0.25 g | ClC1=C(N=NC(=C1C1=CC=C(C=C1)Cl)C)C | C12H10Cl2N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-chloro-phenyl)-3,6-dimethyl-4-pyrazolylpyridazine | 0.19 g | ClC1=CC=C(C=C1)C=1C(=C(N=NC1C)C)C1=NNC=C1 | C15H13ClN4
